US05629320
Isopropyl 3-cyano-1,4-dihydro-2,6-dimethyl-4-(3-benzylquinolin-5-yl)-pyridine-5-carboxylate
0.72 g of isopropyl acetoacetate, 0.025 ml of acetic acid and 0.05 ml of piperidine are added to 1.24 g (5 mmol) of 3-benzylquinoline-5-aldehyde in 20 ml of methylene chloride and the mixture is heated at the boiling point overnight. It is cooled, diluted with methylene chloride, extracted twice by shaking with water, dried and concentrated. The resulting intermediate product is suspended in 15 ml of isopropanol, 0.41 g (5 mmol) of 3-aminocrotononitrile are added and the mixture is stirred at 80° C. for 20 hours. It is concentrated and the residue is purified by flash chromatography with toluene/ethyl acetate mixtures. After crystallization from ethanol/ether 1:1, 1.0 g of colourless crystals of melting point 188°-190° C. is obtained.

reactant | isopropyl acetoacetate | 0.72 g | C(CC(=O)C)(=O)OC(C)C | C7H12O3
reactant | piperidine | 0.05 ml | N1CCCCC1 | C5H11N
reactant | 3-benzylquinoline-5-aldehyde | 5 mmol, 1.24 g | C(C1=CC=CC=C1)C=1C=NC=2C=CC=C(C2C1)C=O | C17H13NO
reactant | 3-aminocrotononitrile | 5 mmol, 0.41 g | N\C(=C/C#N)\C | C4H6N2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 0.025 ml | C(C)(=O)O | C2H4O2
product | Isopropyl 3-cyano-1,4-dihydro-2,6-dimethyl-4-(3-benzylquinolin-5-yl)-pyridine-5-carboxylate | C(#N)C1=C(NC(=C(C1C1=C2C=C(C=NC2=CC=C1)CC1=CC=CC=C1)C(=O)OC(C)C)C)C | C28H27N3O2
